US04067903
1,1'-Dinaphthylamine
144 parts of α-naphthol, 143 parts of α-naphthylamine and 15 parts of triphenyl phosphite are mixed and heated to 220° C. The elimination of water commences at this temperature and has ended when the internal temperature reaches 250° C. 18 parts of water are removed in the course of 10 hours. After distilling off excess α-naphthol and α-naphthylamine, 250 parts of 1,1'-dinaphthylamine, of melting point 97° - 102° C, are obtained at 256° - 257°/5 mm Hg. This corresponds to a yield of 93% of theory.

reactant | α-naphthol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | α-naphthylamine | C1(=CC=CC2=CC=CC=C12)N | C10H9N
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | water | O | H2O
product | 1,1'-Dinaphthylamine | yield of 93% | C1=CC=C2C(=C1)C=CC=C2NC3=CC=CC4=CC=CC=C43 | C20H15N
